US08461182B2
Step R1-1: To a suspension of 7-hydroxy-3,4-dihydroquinolin-2(1H)-one (200 g) in CHCl3 (2.0 L) was added pyridine (212 g) at room temperature over 10 minutes. Tf2O (344 g) was added to the mixture over 35 minutes, keeping the temperature below 10° C. After the mixture was allowed to warm to 15° C. over 1 hour, the reaction mixture was cooled to 0° C. and quenched by addition of water (2.0 L). The organic layer was separated, washed with aqueous saturated KHSO4 and water twice, dried over Na2SO4 and concentrated to obtain 2-oxo-1,2,3,4-tetrahydroquinolin-7-yl trifluoromethanesulfonate as a pale yellow solid (346 g).

reactant | 7-hydroxy-3,4-dihydroquinolin-2(1H)-one | 200 g | OC1=CC=C2CCC(NC2=C1)=O | C9H9NO2
reactant | pyridine | 212 g | N1=CC=CC=C1 | C5H5N
reactant | Tf2O | 344 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
solvent | CHCl3 | 2.0 L | C(Cl)(Cl)Cl | CHCl3
product | 2-oxo-1,2,3,4-tetrahydroquinolin-7-yl trifluoromethanesulfonate | 346 g | FC(S(=O)(=O)OC1=CC=C2CCC(NC2=C1)=O)(F)F | C10H8F3NO4S
